US04997838
Production of methyl 5-[4-(tert-butoxycarbonyl)-phenyl]pentanoate:
Under an atmosphere of argon, potassium (25 g) was dissolved completely in dried tert-butyl alcohol (820 ml) by refluxing by heating for 3 hours. The solution was cooled to 20° C., to which was added ether (300 ml) and then slowly a solution of methyl crotonate (63.93 g) and tert-butyl 4-formylbenzoate (71.0 g) in tert-butyl alcohol-ether mixture (2:1, 300 ml) while keeping the inner temperature at 10° C. The mixture was stirred at the same temperature for 2 hours, and 1 N potassium hydrogen sulfate in water (750 ml) was added with cooling to adjust the pH to 4. After extraction with ether, the ether layer was washed with saturated sodium chloride solution and the solvent was evaporated off under reduced pressure. The residue was dissolved in ethyl acetate (100 ml), to which was added 5% Pd-C (15 g: manufactured by Engelhard Co. Ltd.), and stirred vigorously at room temperature under hydrogen pressure of 4 kg/cm2 for 3 hours. The catalyst was filtered off, the solvent was evaporated off under reduced pressure, and dried methanol (200 ml), 4-(N,N-dimethylamino)pyridine (30 mg) and dichloromethane (250 ml) were added, to which a solution of 1,3-dicyclohexylcarbodiimide (132 g) in dichloromethane (250 ml) was added slowly dropwise at 0° C. After stirring at room temperature for 18 hours, the mixture was cooled to 0° C. Acetic acid (30 ml) was added and the mixture stirred at 0° C. for 30 minutes and then at room temperature for 30 minutes. The resulting precipitate was filtered off, the filtrate was concentrated to dryness under reduced pressure, and to the residue was added ethyl acetate (100 ml), which was left standing at 0° C. for 2 hours, and the resulting precipitate was again filtered off. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (carrier: silica gel, 500 g, ether-hexane, 1:15→1:5), to give the object compound (59.7 g).

reactant | potassium | 25 g | [K] | K
reactant | methyl crotonate | 63.93 g | C(\C=C\C)(=O)OC | C5H8O2
reactant | tert-butyl 4-formylbenzoate | 71.0 g | C(=O)C1=CC=C(C(=O)OC(C)(C)C)C=C1 | C12H14O3
reactant | potassium hydrogen sulfate | 1 N | S(=O)(=O)(O)[O-].[K+]
solvent | tert-butyl alcohol | 820 ml | C(C)(C)(C)O | C4H10O
solvent | water | 750 ml | O | H2O
solvent | ether | 300 ml | CCOCC | C4H10O
product | methyl 5-[4-(tert-butoxycarbonyl)-phenyl]pentanoate | 59.7 g | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CCCCC(=O)OC | C17H24O4
